US06313137B1
Synthesis of 8-(2-ethyl-6-methylbenzylamino)-N, 2,3-trimethylimidazo[1,2-a]pyridine-6-carboxamide
2,3-Dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylic acid (0.15 g, 0.44 mmol) and o-Benzotriazol-1-yl-N,N,N′,N′-Tetramethyluronium tetrafluoroborate (TBTU) (0.14 g, 0.44 mmol) were added to methylene chloride (10 ml) and the reaction mixture was stirred at room temperature for 15 min. Methylamine (0.1 g, 3.2 mmol) was added and the reaction mixture was stirred at ambient temperature for 1.5 h. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using ethylacetate:methylene chloride (1:1) as eluent. The yield was treated with diethyl ether to give 40 mg (26%) of the desired product.

reactant | 2,3-Dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylic acid | 0.44 mmol, 0.15 g | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)O)C1C | C20H23N3O2
reactant | o-Benzotriazol-1-yl-N,N,N′,N′-Tetramethyluronium tetrafluoroborate | 0.44 mmol, 0.14 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
reactant | Methylamine | 3.2 mmol, 0.1 g | CN | CH5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 8-(2-ethyl-6-methylbenzylamino)-N, 2,3-trimethylimidazo[1,2-a]pyridine-6-carboxamide | 40 mg, 26% | C(C)C1=C(CNC=2C=3N(C=C(C2)C(=O)NC)C(=C(N3)C)C)C(=CC=C1)C | C21H26N4O
